US04725600
To a solution of 6-(3,4-dimethoxyphenyl)-3-methyl-1,2,3,4-tetrahydro-4-(2,4,6-trimethylphenylimino)pyrimidine (1.0 g) in pyridine (10 ml) was added methyl isocyanate (0.18 ml), and the mixture was stirred at ambient temperature for 3 hours. Then the mixture was poured into water (150 ml), and the resultant precipitates were collected. The precipitates were washed with water, and dried to give 6-(3,4-dimethoxyphenyl)-3-methyl-1-(N-methylcarbamoyl)-1,2,3,4-tetrahydro-4-(2,4,6-trimethylphenylimino)pyrimidine (0.99 g).

reactant | 6-(3,4-dimethoxyphenyl)-3-methyl-1,2,3,4-tetrahydro-4-(2,4,6-trimethylphenylimino)pyrimidine | 1.0 g | COC=1C=C(C=CC1OC)C1=CC(N(CN1)C)=NC1=C(C=C(C=C1C)C)C | C22H27N3O2
reactant | methyl isocyanate | 0.18 ml | CN=C=O | C2H3NO
reactant | water | 150 ml | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 6-(3,4-dimethoxyphenyl)-3-methyl-1-(N-methylcarbamoyl)-1,2,3,4-tetrahydro-4-(2,4,6-trimethylphenylimino)pyrimidine | 0.99 g | COC=1C=C(C=CC1OC)C1=CC(N(CN1C(NC)=O)C)=NC1=C(C=C(C=C1C)C)C | C24H30N4O3
